US04536505
A solution of 0.36 g of ethyl mercaptoacetate in 20 ml of dimethylformamide is treated with 0.145 g of a 50% oil dispersion of sodium hydride at room temperature under nitrogen for 15 minutes. A solution of 1.13 g of N-(3-pyridyl)indole-3-propyl benzenesulfonate in 5 ml of dimethylformamide is added at room temperature. The reaction mixture is stirred for 15 hours, diluted with 100 ml of water and extracted 4 times with 50 ml of ethyl ether. The organic extracts are washed with 50 ml of water and 20 ml of cold 1N hydrochloric acid. The acid phase is extracted with ether and brought to pH=8.5 with 50% sodium hydroxide solution. The aqueous phase is extracted with chloroform (3×30 ml). The chloroform extract is dried over potassium carbonate and evaporated to yield 3-[3-(ethoxycarbonylmethylthio)propyl]-N-(3-pyridyl)indole; IR (CH2Cl2) 1725 cm-1.

reactant | ethyl mercaptoacetate | 0.36 g | SCC(=O)OCC | C4H8O2S
reactant | sodium hydride | [H-].[Na+]
reactant | N-(3-pyridyl)indole 3-propyl benzenesulfonate | 1.13 g | N1=CC(=CC=C1)N1C=CC2=CC=CC=C12.C1(=CC=CC=C1)S(=O)(=O)OCCC
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | 100 ml | O | H2O
product | 3-[3-(ethoxycarbonylmethylthio)propyl]-N-(3-pyridyl)indole | C(C)OC(=O)CSCCCC1=CN(C2=CC=CC=C12)C=1C=NC=CC1 | C20H22N2O2S
